US05998424
Methyl 3-[3-(bromo)-4-(fluoro)-phenyl]-3-oxopropionate
To a suspension of sodium hydride (1.1 g of 60% suspension in mineral oil, hexane-washed, 27.6 mmol) in 50 mL of tetrahydrofuran was added dimethyl carbonate (2.3 mL, 27.6 inmol) and 3'-bromo-4'-fluoroacetophenone (3.0 g, 13.8 mmol). The resulting suspension was stirred at 65° C. for 1 h and then was cooled to room temperature. The reaction mixture was diluted with ethyl acetate and washed with water and brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (elution with 3:1 hexane/ethyl acetate) to afford 1.0 g (26%) of the title compound. 1H NMR (CDCl3) (data for keto tautomer) δ8.15 (dd, 1H), 7.87 (m, 1H), 7.2 (m, 1H), 3.95 (s, 2H), 3.73 (s, 3H).

reactant | sodium hydride | 27.6 mmol, 1.1 g | [H-].[Na+]
reactant | dimethyl carbonate | 2.3 mL | C(OC)(OC)=O | C3H6O3
reactant | 3'-bromo-4'-fluoroacetophenone | 13.8 mmol, 3.0 g | BrC=1C=C(C=CC1F)C(C)=O | C8H6BrFO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-[3-(bromo)-4-(fluoro)-phenyl]-3-oxopropionate | 1.0 g, 26% | BrC=1C=C(C=CC1F)C(CC(=O)OC)=O | C10H8BrFO3
